US04210663
6-chloro-3,4-dihydro-2H-1-benzpyran-4-ylidene-acetic acid methyl ester (2.0 g.) was reduced with hydrogen using a 10% Pd-charcoal catalyst (0.20 g.) by stirring at 25° C. in ethyl acetate for 4 hours. The reduction product, 6-chloro-3,4-dihydro-2H-1-benzopyran-4-acetic acid methyl ester (1.0 g.), was heated for 3 days at reflux temperature with potassium hydroxide (2.4 g.) in 25 ml. water. The solution was acidified and extracted with chloroform. Recrystallization from cyclohexane gave 6-chloro-3,4-dihydro-2H-1-benzopyran-4-acetic acid (650 mg. 60%), m.p. 115°-117° C.

reactant | 6-chloro-3,4-dihydro-2H-1-benzpyran-4-ylidene-acetic acid methyl ester | 2.0 g | COC(C=C1CCOC2=C1C=C(C=C2)Cl)=O | C12H11ClO3
reactant | hydrogen | [H][H] | H2
reactant | 6-chloro-3,4-dihydro-2H-1-benzopyran-4-acetic acid methyl ester | 1.0 g | COC(CC1CCOC2=C1C=C(C=C2)Cl)=O | C12H13ClO3
reactant | potassium hydroxide | 2.4 g | [OH-].[K+]
catalyst | Pd charcoal | 0.20 g | [Pd].C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-chloro-3,4-dihydro-2H-1-benzopyran-4-acetic acid | 650 mg, 60% | ClC=1C=CC2=C(C(CCO2)CC(=O)O)C1 | C11H11ClO3
